US06743817B2
4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (2-fluoro-phenyl)-amide (0.73 mmol), pyridine (2.2 mmol), EtOH (10 ml) and methoxylamine hydrochloride (2.2 mmol) are combined in a sealed tube and heated at 120° C. for 16 hours. The reaction mixture is cooled to room temperature, the solvent is removed in vacuo and the residue is treated with 10 ml of H2O for 5 minutes. The resulting solid is collected by vacuum filtration to yield 160 mg (72%) of 4-methoxyimino-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (2-fluoro-phenyl)-amide as a white solid. 1H NMR (DMSO-d6) δ1.80-1.86 (m, 2H), 2.62-2.73 (m, 4H), 3.81 (s, 3H), 7.10-7.29 (m, 3H), 7.48 (d, 1H), 8.01 (t, 1H), 11.70 (s, 1H), 11.81 (s, 1H).

reactant | 4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (2-fluoro-phenyl)-amide | 0.73 mmol | FC1=C(C=CC=C1)NC(=O)C1=CNC=2CCCC(C12)=O | C15H13FN2O2
reactant | pyridine | 2.2 mmol | N1=CC=CC=C1 | C5H5N
reactant | methoxylamine hydrochloride | 2.2 mmol | Cl.O(C)N
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-methoxyimino-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (2-fluoro-phenyl)-amide | 160 mg, 72% | FC1=C(C=CC=C1)NC(=O)C1=CNC=2CCCC(C12)=NOC | C16H16FN3O2
